Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
R-sided weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ F with PMHx hypertension and question of
non-Hodgkin's lymphoma and ovarian cancer who presents status
post mechanical fall with a right-sided weakness. 

Patient was intoxicated after consuming "2 shots of fireball" at
home and fell down a flight of stairs to her basement. She
recalls all the preceding events noticed no palpitations or
presyncope prior to her fall. She has a ___ bulldog which 
she
feels may have impeded her Pap and caused her to fall.  She 
notes
a positive loss of consciousness and recalls awakening with her
fiancé attempting to give her some water. Initially after the
episode she was able to move her right arm and leg.  Once EMS
arrived she was unable to move her right side and was taken to
___. At the outside hospital CT of her head,
___ and torso were negative for focal findings. She was 
again
noted to have an inability to move her right upper and lower
extremities with decreased sensation in the right lower 
extremity
and was transferred to ___ for principal concern of
spinal injury. 

Of Note, the patient is a cardiac nurse at ___ and
recounts that she has a history of ovarian cancer. She is unable
to recall the laterality of her cancer or its stage or type.  
She
recounts that her ovarian cancer was initially diagnosed ___ years
ago after "3 abnormal Pap smears and a positive H. pylori". Per
the patient, her ovarian cancer was never treated. She had a PET
SCAN at an OSH for "follow up of the ovarian cancer" which
demonstrated non-hodgkins lymphoma on the "left side of my
abdomen". She notes that she sees Dr. ___ at ___ who
prescribes her a "single pill of chemotherapy that she picks up
at the same pharmacy where she gets her metoprolol". Per review
of the patients fill history, there is no other medication 
listed
at this pharmacy.   

Patient was evaluated in the emergency department by ___ surgery
who felt there is nothing acutely the surgical for her.  MRIs of
the head C, T and ___ did not demonstrate any acute
abnormalities.  The patient was seen by neurology who felt that
the patient had right-sided decreased sensation in the right
upper and lower extremities and decreased strength in the right
and lower extremities and felt that the "sensory changes likely
multifactorial and possibly due to brachial and lumbar plexus
injury in the setting of the fall with some embellishment in the
setting of pain, intoxication, and medications".   
 
Past Medical History:
- question h/o non Hodgkin's lymphoma currently undergoing
chemotherapy 
- question of ovarian cancer         
- HTN 
- appendectomy 
 
Social History:
___
Family History:
no history of intra-abdominal cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITALS: 98.2 BP PO 150 / 90 HR 77 18 97 RA 
GENERAL: Alert and interactive. In mild distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: Paraspinal muscle tenderness.
ABDOMEN: Normal bowels sounds, non distended, soft, tenderness 
to
light palpation in the Left Lower and upper quadrants, no
epigastric tenderness to deep palpation.
EXTREMITIES: 
RUE: decreased sensation of the radial aspect of right arm ___
strength in thumb opposition, grip strength, flexion and
extension. Pain with abduction past 90 degrees at the shoulder. 
RLE: ___ strength at ankle, knee and hip flexion (poor effort:
positive Hoovers test), decreased sensation over the right lower
extremity. LUE/LLE, ___ strength and sensation to light touch
intact  
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: AOx3.  CN2-12 intact.  

DISCHARGE PHYSICAL EXAM:
VITALS: 98.___ / ___  
GENERAL: in no acute distress
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
HEART: RRR, nl s1/s2, no m/g/r
LUNGS: CTAB, no wheezing, crackles, or other adventitious breath
sounds
ABDOMEN: NABS, soft, nondistended, nontender, no
rebound/guarding, no HSM or masses noted
EXTREMITIES: wwp, no ___ edema
SKIN: Warm, no rash or other notable lesions
NEUROLOGIC: AOx3, PERRL, EOMI
RUE: 
- decreased sensation to light touch up to shoulder, ___ 
strength
RLE: 
- no sensation to light touch up to upper thigh + patch of
anterior and medial knee, ___ strength
LUE/LLE with ___ strength, sensation intact
 
Pertinent Results:
ADMISSION LABS:
___ 11:06PM BLOOD WBC-8.3 RBC-4.72 Hgb-14.8 Hct-44.5 MCV-94 
MCH-31.4 MCHC-33.3 RDW-12.2 RDWSD-42.5 Plt ___
___ 11:06PM BLOOD Neuts-56.6 ___ Monos-7.3 Eos-0.7* 
Baso-1.1* Im ___ AbsNeut-4.68 AbsLymp-2.80 AbsMono-0.60 
AbsEos-0.06 AbsBaso-0.09*
___ 11:06PM BLOOD ___ PTT-23.5* ___
___ 11:06PM BLOOD Lipase-267*
___ 04:45PM BLOOD Albumin-3.9 Calcium-9.0 Phos-2.9 Mg-1.9
___ 11:06PM BLOOD ASA-NEG Ethanol-92* Acetmnp-9* 
Tricycl-NEG
___ 11:20PM BLOOD Glucose-152* Lactate-5.0* Creat-0.8 
Na-141 K-3.6 Cl-111* calHCO3-19*

DISCHARGE LABS:
___ 08:30AM BLOOD WBC-8.1 RBC-4.05 Hgb-12.9 Hct-39.4 MCV-97 
MCH-31.9 MCHC-32.7 RDW-12.7 RDWSD-45.3 Plt ___
___ 08:30AM BLOOD ___ PTT-25.5 ___
___ 08:30AM BLOOD Glucose-82 UreaN-17 Creat-0.9 Na-141 
K-4.6 Cl-109* HCO3-24 AnGap-8*
___ 08:30AM BLOOD ALT-9 AST-11 LD(LDH)-149 AlkPhos-84 
TotBili-0.3
___ 08:30AM BLOOD Calcium-9.1 Phos-2.6* Mg-2.0

OTHER PERTINENT LABS:
___ 04:45PM BLOOD Lipase-115*
___ 04:45PM BLOOD cTropnT-<0.01

MICROBIOLOGY:
___  URINE CULTURE No growth

IMAGING:
___ MR ___ W/O CONTRAST; MR ___ &W/O 
CONTRAST; MR ___ & W/O CONTRAST
FINDINGS:  
The study is limited due to lack of axial imaging and 
postcontrast sagittal T1
of the cervical and thoracic spine.
CERVICAL:
A 2 mm posterior subluxation of C6-C7 is seen.  The bone marrow 
signal is
within normal limits.  The visualized posterior fossa and cord 
are
unremarkable.  Cervical spondylosis is seen, including a disc 
bulge at C6-7,
distorting the ventral thecal sac.  No spinal canal narrowing is 
seen.
THORACIC:
The alignment is normal.  The bone marrow signal is within 
normal limits.  The
cord is unremarkable.  No spinal canal or foraminal narrowing is 
seen.
LUMBAR:
Alignment is normal.  The bone marrow signal is within normal 
limits.  There
is no abnormal enhancement.  The cord terminates at T12-L1 and 
is
unremarkable.  Disc bulges and bilateral facet osteophytes are 
seen at L4-5
and L5-S1, causing no spinal narrowing and moderate bilateral 
foraminal
narrowing.
OTHER: The visualized paraspinal soft tissues are unremarkable.
IMPRESSION:
1. Limited exam due to lack of axial imaging and postcontrast 
sagittal T1 of
the cervical and thoracic spine.
2. The spine cord is unremarkable.  No abnormal enhancement or 
masses.
3. Degenerative changes of the lower lumbar spine causing 
moderate bilateral
foraminal narrowing at L4-5 and L5-S1.

___ MRI BRAIN
FINDINGS: 
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift
or infarction.   The ventricles and sulci are normal in caliber 
and
configuration.
IMPRESSION:
1. Normal brain MRI.
 
Brief Hospital Course:
SUMMARY:
=====================================
___ woman with history of HTN, ovarian cancer, and non-Hodgkins 
lymphoma per patient report, who presented after a mechanical 
fall down stairs with + LOC, was found to have R-sided arm and 
leg weakness and sensory changes with normal MRI brain/spine, 
thought to be secondary to conversion disorder. 

ACUTE ISSUES:
=====================================

# Mechanical Fall
The patient reported walking down stairs, and then waking up on 
the ground at the bottom of the stairs. No prodromal symptoms, 
thought she may have tripped over her dog. She was evaluated by 
ACS and underwent CT ___ as well as MRI 
___, with no abnormality found. 

# Conversion disorder
The patient was noted to have R arm and leg weakness and lack of 
sensation developing after the fall. As above, brain and spine 
imaging was normal. Her exam showed R-sided ___ strength and 
decreased sensation to all modalities, with no cranial nerve 
abnormalities or pronator drift, and normal reflexes. She did 
have evidence of functional overlay initially with some 
inconsistencies in exam and non-dermatomal pattern of sensation 
loss. She was evaluated by Neurology who felt her exam was most 
consistent with conversion disorder. Her symptoms improved 
during hospitalization. She was seen by ___. At discharge she 
was able to ****. 

# Back pain
The patient complained of diffuse back pain. No evidence of 
vertebral fracture or focal tenderness. She was treated with 
Tylenol, lidocaine patch, ketorolac, and flexeril with a few 
doses of oxycodone for severe pain. She was discharged on 
Tylenol, lidocaine patch, and tizanidine. 

# L-sided abdominal pain 
# Elevated lipase 
Patient initially admitted with elevated lipase to 200s which 
subsequently downtrended, likely in setting of acute alcohol 
intoxication. She also initially had L-sided abdominal pain, 
likely MSK secondary to fall, which subsequently improved. 
Abdominal exam was benign and there was no concern for perf. 

# Positive tox screen
# Alcohol intoxication 
Patient tox screen was positive for alcohol, amphetamines, 
benzos and opiates. ETOH level 92. The patient received fentanyl 
and lorazepam prior to arrival and noted taking Adderall 
recently once. She denied any other recreational drug use. There 
was no evidence of withdrawal during this admission. She was 
seen by Social Work and declined further services.

CHRONIC ISSUES:
=====================================

# ?Non-Hodgkin's lymphoma 
# ?Ovarian cancer
Patient was diagnosed with non-Hodgkin's lymphoma after a PET 
scan and reports being seen in clinic by Dr. ___ at 
___ in ___. She is on an unknown chemotherapy 
regimen. Unable to confirm these diagnoses. 

# HTN
Continued home metoprolol.

TRANSITIONAL ISSUES:
=====================================
[] Please ensure PCP ___ to monitor regaining 
strength/sensation of R extremities
[] Please ensure follow up with Cognitive Neurology for 
___ of concussion

MEDICATION CHANGES:
=====================================
- Started Tylenol 1g Q6H
- Started lidocaine patch 5% Q24H to back
- Started tizanidine 4mg TID PRN
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 25 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  Lidocaine 5% Patch 1 PTCH TD QAM back pain 
RX *lidocaine 5 % apply to back once daily Disp #*15 Patch 
Refills:*0 
3.  Tizanidine 4 mg PO TID back pain 
RX *tizanidine 4 mg 1 capsule(s) by mouth three times daily Disp 
#*45 Capsule Refills:*0 
4.  Metoprolol Tartrate 25 mg PO DAILY  
5.Rolling Walker
Rolling Walker
Diagnosis: R-sided weakness, 300.11
Prognosis: Good
___: 13 months

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
# Mechanical fall
# Conversion disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You had a fall and were unable to move or feel your right arm 
and leg

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You had imaging of the brain and spinal cord which did not 
show any abnormality
- You were seen by Neurology who felt that your symptoms would 
improve
- You were seen by Occupational and Physical Therapy  

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and ___ 
with your appointments as listed below.

We wish you the best!  

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___